US05942507
Synthesis of N-Cyclohexyl-α-(2-sulfofuran-5-yl)nitrone
Following the procedure of Example 1 above and using 5-formylfuran-2-sulfonic acid, sodium salt hydrate and N-cyclohexylhydroxylamine, the title compound was prepared in 84.3% yield as the sodium salt, m.p. 236.1° C. (dec.).

reactant | 5-formylfuran-2-sulfonic acid | C(=O)C1=CC=C(O1)S(=O)(=O)O | C5H4O5S
reactant | sodium | [Na] | Na
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | N-Cyclohexyl-α-(2-sulfofuran-5-yl)nitrone | 84.3% yield | C1(CCCCC1)[N+](=CC1=CC=C(O1)S(=O)(=O)O)[O-] | C11H15NO5S
